US07476666B2
Step 7: (7S)—N-{4-Fluoro-2-[(methylamino)carbonyl]benzyl}-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide
To a solution of 5-fluoro-2-[({[(7S)-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl]carbonyl}amino)methyl]benzoic acid (47 mg, 0.106 mmol) in DMF (1 mL) were added HOAT (44 mg, 0.322 mmol), and EDC (62 mg, 0.322 mmol). The reaction mixture was stirred at ambient temperature 15 minutes then 2M methylamine in THF (214 μL, 0.429 mmol) and triethylamine (45 μL, 0.322 mmol) were added. The reaction was stirred at ambient temperature for 5 hours. The crude reaction was purified by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA). Collection and concentration of the appropriate fractions afforded the product as a light pink solid. 1H NMR (400 MHz, d6-DMSO) δ 8.55 (t, J=6.2 Hz, 1H), 8.48 (m, 1H), 7.3-7.4 (m, 4H), 7.25 (m, 2H), 7.03 (m, 2H), 5.75 (t, J=4.0 Hz, 1H), 4.68 (ABX, J=15.2, 6.4 Hz, 2H), 4.18 (dd, J=13.4, 4.6 Hz, 1H), 3.79 (dd, J=13.4, 3.8 Hz, 1H), 2.87 (s, 3H), 2.75 (d, J=4.6 Hz, 3H); HRMS (FT-ICR) C23H22FN5O4+H=452.1735; calculated 452.1729.

reactant | 5-fluoro-2-[({[(7S)-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl]carbonyl}amino)methyl]benzoic acid | 0.106 mmol, 47 mg | FC=1C=CC(=C(C(=O)O)C1)CNC(=O)C1=NN2C(C(N(C[C@@H]2C2=CC=CC=C2)C)=O)=C1O | C22H19FN4O5
reactant | HOAT | 0.322 mmol, 44 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.322 mmol, 62 mg
reactant | methylamine | 2M | CN | CH5N
reactant | THF | 0.429 mmol, 214 μL | C1CCOC1 | C4H8O
reactant | triethylamine | 0.322 mmol, 45 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (7S)—N-{4-Fluoro-2-[(methylamino)carbonyl]benzyl}-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide | FC1=CC(=C(CNC(=O)C2=NN3C(C(N(C[C@@H]3C3=CC=CC=C3)C)=O)=C2O)C=C1)C(=O)NC | C23H22FN5O4
